US07371749B2
3-Methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid methyl ester
Using 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride and morpholine, the title compound was obtained as light brown solid (>98% yield). MS: m/e=240(M+H+).

reactant | 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1N(C(=NC1)CCl)C
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-Methyl-2-morpholin-4-ylmethyl-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1)CN1CCOCC1)C | C11H17N3O3
